US07365098B2
N′-Cyano-N-[1-(2,4-dichlorophenyl)ethyl]-N-methylpropaneimidamide
1.00 g of N′-cyano-N-[1-(2,4-dichlorophenyl)ethyl]propaneimidamide was dissolved in 25 ml of dimethylformamide, and 0.16 g of sodium hydride (60% pure in paraffin oil) was added at room temperature. After 30 minutes, 0.63 g of iodomethane was added. The mixture was stirred at room temperature overnight and, after removal of the solvent, purified chromatographically. This gave 0.86 g of N′-cyano-N-[1-(2,4-dichlorophenyl)ethyl]-N-methylpropaneimidamide of logP 2.80 and m.p. 148° C.

reactant | N′-cyano-N-[1-(2,4-dichlorophenyl)ethyl]propaneimidamide | 1.00 g | C(#N)N=C(CC)NC(C)C1=C(C=C(C=C1)Cl)Cl | C12H13Cl2N3
reactant | sodium hydride | 0.16 g | [H-].[Na+]
reactant | iodomethane | 0.63 g | IC | CH3I
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | N′-Cyano-N-[1-(2,4-dichlorophenyl)ethyl]-N-methylpropaneimidamide | C(#N)N=C(CC)N(C)C(C)C1=C(C=C(C=C1)Cl)Cl | C13H15Cl2N3
